US06022906
[4-(2-Methyl-2-morpholin-4-yl-propionyl)-phenylthio]-acetic acid 2,2-bis-mercaptoacetoxymethyl-butyl ester
1.26 g (5.0 mmol) of 1-(4-fluorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one and 7.0 ml (25.0 mmol) of trimethylolpropane tris(2-mercaptoacetate) are dissolved in 25 ml of dry dimethylformamide, and 10.0 mmol of sodium hydride are added. The solution is stirred at room temperature for 2 h. Then the solution is poured into water. The crude product is extracted with methylene chloride, washed with water, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with methylene chloride-methanol (100:1) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 0.93 (t, 3H), 1.31 (s, 6H), 1.44 (q, 2H), 1.95-2.13 (m, 2H), 2.57 (t, 4H), 3.25-3.32 (m, 6H), 3.70 (t, 4H), 4.10-4.15 (m, 6H), 7.33 (d, 2H), 8.51 (d, 2H).

reactant | 1-(4-fluorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one | 5.0 mmol, 1.26 g | FC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18FNO2
reactant | trimethylolpropane tris(2-mercaptoacetate) | 25.0 mmol, 7.0 ml | SCC(=O)O.SCC(=O)O.SCC(=O)O.C(O)C(CC)(CO)CO
reactant | sodium hydride | 10.0 mmol | [H-].[Na+]
reactant | water | O | H2O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-(2-Methyl-2-morpholin-4-yl-propionyl)-phenylthio]-acetic acid 2,2-bis-mercaptoacetoxymethyl-butyl ester | SC(C(=O)OCC(CCC)OC(CSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O)=O)S | C23H33NO6S3
